US07943607B2
8-Fluoro-3,4-dihydro-2H-1,5-benzoxathiepine
Sodium hydride (60% dispersion in mineral oil) (177 mg, 4.42 mmol) was added to a solution of 3-[(2,4-difluorophenyl)thio]propan-1-ol (0.41 g, 2.01 mmol) in DMF (40 mL) and the mixture stirred at RT for 24 hours. The solvent was removed in vacuo and iced water (200 mL) added. The mixture was extracted into ethyl acetate and the organics washed with brine (40 mL), dried (MgSO4), filtered and reduced in vacuo to give a white solid which was chromatographed on silica, eluting with 0-10% ethyl acetate in isohexane, to give the desired compound as a colourless oil (110 mg).

reactant | Sodium hydride | 4.42 mmol, 177 mg | [H-].[Na+]
reactant | 3-[(2,4-difluorophenyl)thio]propan-1-ol | 2.01 mmol, 0.41 g | FC1=C(C=CC(=C1)F)SCCCO | C9H10F2OS
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 8-Fluoro-3,4-dihydro-2H-1,5-benzoxathiepine | 110 mg | FC1=CC2=C(SCCCO2)C=C1 | C9H9FOS
